US03931318
A mixture consisting of 14.2 g. (0.068 mole) phosphorus pentachloride, 100 ml. carbon tetrachloride, and 16.78 g. (0.065 mole) p-(methylthio)benzoic acid 2-phenylhydrazide (prepared in Part A above) was reacted at 25°C. until evolution of gas ceased. The reaction mixture was then heated to the reflux temperature and a clear solution resulted. The solution was chilled in ice and a suspension of 20.7 g. (0.22 mole) phenol in 50 ml. carbon tetrachloride was added. After removing the carbon tetrachloride by evaporation on a rotary evaporator at 31°C. the resulting suspension of product in triphenylphosphate was filtered. The filter cake was washed with technical hexane ((Skellysolve B, a mixture of isomeric hexanes having a boiling range between 146° and 156° Fahrenheit), and then was washed with diethyl ether. Crystallization from 75 ml. ethyl acetate gave 8.10 g. (44.9% yield) of p-(methylthio)-benzoyl chloride phenylhydrazone having a melting point of 138.5° to 142.5°C. Recrystallization from a mixture of ethyl acetate and the Skellysolve B gave the compound with the same melting point.

reactant | phosphorus pentachloride | 0.068 mole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | p-(methylthio)benzoic acid 2-phenylhydrazide | 0.065 mole | C1(=CC=CC=C1)NNC(C1=CC=C(C=C1)SC)=O | C14H14N2OS
reactant | phenol | 0.22 mole | C1(=CC=CC=C1)O | C6H6O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | p-(methylthio)-benzoyl chloride phenylhydrazone | 44.9% yield | C1(=CC=CC=C1)NN=C(C1=CC=C(C=C1)SC)Cl | C14H13ClN2S
